US06919329B2
Step 1: Preparation of ethyl (5R)-3-[3-fluoro-4-(4-morpholinyl)phenyl]-2-oxo-5-oxazolidinecarboxylate
A solution of 3-fluoro-4-morpholinoaniline (J. Med. Chem. 1996, 39(3), 673-679, 0.796 g, 4.0 mmol), ethyl 2(R)-epoxypropanoate (0.696 g, 6.0 mmol) and lithium triflate (0.97 g, 6.2 mmol) in acetonitrile (12 mL) is stirred at 50-60° C. overnight. Solvent and excess epoxide is removed under reduced pressure, and the crude amino alcohol is redissolved in dry acetonitrile (40 mL) and 1,1′-carbonyldiimidazole (1.46 g, 9.0 mmol) is added. The mixture is stirred at ambient temperature overnight, and then the solvent is removed under reduced pressure. The residue is partitioned between ethyl acetate (70 mL) and 3% aqueous citric acid (100 mL), the layers are separated, and the organic phase is washed with 3% aqueous citric acid (3×100 mL), water and saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The product mixture is then purified by silica gel chromatography, eluting with ethanol/methylene chloride (2/98), and the appropriate fractions are pooled and concentrated to give the title compound, MS (ESI+) for C16H19N2O5F m/z 339 (M+H)+.

reactant | 3-fluoro-4-morpholinoaniline | 4.0 mmol, 0.796 g | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
reactant | ethyl 2(R)-epoxypropanoate | 6.0 mmol, 0.696 g | O1[C@@H](C(=O)OCC)C1 | C5H8O3
reactant | lithium triflate | 6.2 mmol, 0.97 g | [O-]S(=O)(=O)C(F)(F)F.[Li+]
reactant | 1,1′-carbonyldiimidazole | 9.0 mmol, 1.46 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | ethyl (5R)-3-[3-fluoro-4-(4-morpholinyl)phenyl]-2-oxo-5-oxazolidinecarboxylate | FC=1C=C(C=CC1N1CCOCC1)N1C(O[C@H](C1)C(=O)OCC)=O | C16H19FN2O5
